US03956500
PREPARATION OF 4-(2-CHLOROETHYLCARBAMOYLOXIMINO)-5-METHYL- 1,3-OXATHIOLANE
4-Oximino-5-methyl-1,3-oxathiolane was caused to react with 2-chloroethylisocyanate in the presence of dibutyltin diacetate in ether. The reaction mixture was worked up and recrystallized in the manner described in Example I. The product had a mp 88.5°-90.5°.

reactant | 4-Oximino-5-methyl-1,3-oxathiolane | N(O)=C1SCOC1C | C4H7NO2S
reactant | 2-chloroethylisocyanate | ClCCN=C=O | C3H4ClNO
reactant | dibutyltin diacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | ether | CCOCC | C4H10O
product | 4-(2-CHLOROETHYLCARBAMOYLOXIMINO)-5-METHYL- 1,3-OXATHIOLANE | ClCCNC(=O)ON=C1SCOC1C | C7H11ClN2O3S
